US05962002
2-Hydroxynaphthalene-1,4-dione (1.00 g, 5.68 mmol), pivalic acid (870 mg, 8.51 mmol) and silver nitrate (568 mg) were heated in a mixture of acetonitrile (20 ml) and water (20 ml) at 60-65° C. A solution of animonium peroxysulphate (1.94 g, 8.51 mmol) in water (10 ml) was added dropwise and the mixture heated for 1 hour. The mixture was then cooled to room temperature (about 20° C.), diluted with diethyl ether and extracted with 1% (w/v) aqueous sodium hydroxide solution (4×25 ml). The combined aqueous layers were then acidified with 2M hydrochloric acid and extracted with diethyl ether (3×25 ml). The combined ethereal extracts were then washed with water and saturated sodium chloride solution and dried over magnesium sulphate. Filtration and evaporation of the solvent under reduced pressure and purification by silica gel column chromatography yielded 2-(t-butyl)-3-hydroxynaphthalene-1,4-dione (450 mg) as a yellow crystalline solid, m.pt.: 89° C.

reactant | 2-Hydroxynaphthalene-1,4-dione | 5.68 mmol, 1.00 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
reactant | pivalic acid | 8.51 mmol, 870 mg | C(C(C)(C)C)(=O)O | C5H10O2
reactant | peroxysulphate | 8.51 mmol, 1.94 g | S(=O)(=O)([O-])O[O-]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | silver nitrate | 568 mg | [N+](=O)([O-])[O-].[Ag+]
product | 2-(t-butyl)-3-hydroxynaphthalene-1,4-dione | 450 mg | C(C)(C)(C)C=1C(C2=CC=CC=C2C(C1O)=O)=O | C14H14O3
